US04166818
N-n-Butyl-N-(3-methyl-1,2,4-oxadiazol-5-yl)-n-butanamide
5-Butylamino-3-methyl-1,2,4-oxadiazole (4.2 g, 0.03 mole) and butyric anhydride (4.75 g, 0.033 mole) were refluxed in toluene (30 ml9 for 3 hours. After removing the toluene under vacuum, the residue was refluxed in methanol (60 ml) with a few drops of triethylamine for 1 hour. The methanol was evaporated under vacuum and residue taken up in CH2Cl2, washed twice with 2 N HCl and twice with a saturated solution of NAHCO3 and dried over MgSO4. The product was purified by column chromatography (silica gel 120 g) eluted with petroleum ether 40°-60° C., increasing solvent polarity to 10% ether/petroleum ether. Fractions were combined and distilled in a Kugelrohr airbath at 119° C./3.3 mmHg.

reactant | 5-Butylamino-3-methyl-1,2,4-oxadiazole | 0.03 mole, 4.2 g | C(CCC)NC1=NC(=NO1)C | C7H13N3O
reactant | butyric anhydride | 0.033 mole, 4.75 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-n-Butyl-N-(3-methyl-1,2,4-oxadiazol-5-yl)-n-butanamide | C(CCC)N(C(CCC)=O)C1=NC(=NO1)C | C11H19N3O2
